US05352792
To a solution of 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-(1-diphenylmethoxycarbonylvinyloxyimino)acetamido]-3-(trityl-1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester (910 mg: 0.723 mMol.) in a mixture of anisole (3 ml) and nitromethane (12 ml) at -40° C. is added a solution of aluminum chloride (0.77 g: 5.79 mMol.) in anisole (3 ml), and the mixture is stirred at -30° to -40° C. for 50 minutes. The reaction mixture is mixed with 1N-hydrochloric acid (5.8 ml), diluted with water, washed with ethyl acetate, and concentrated under reduced pressure to remove the remaining organic solvents. The resulting aqueous solution is subjected to chromatography over styrene divinylbenzene copolymer (methanol: water=4:1), and resulting powder is washed with ethyl acetate to give 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-(1-carboxyvinyloxyimino)acetamido]-3-(1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid (326 mg) as pale yellow white powder. Yield: 77%.

reactant | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-(1-diphenylmethoxycarbonylvinyloxyimino)acetamido]-3-(trityl-1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester | 0.723 mMol, 910 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OC(=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)SC(SC=2N=NNC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C68H58N8O9S4
reactant | aluminum chloride | 5.79 mMol, 0.77 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 5.8 ml | Cl | ClH
solvent | anisole | 3 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | nitromethane | 12 ml | [N+](=O)([O-])C | CH3NO2
solvent | anisole | 3 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | water | O | H2O
product | 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-(1-carboxyvinyloxyimino)acetamido]-3-(1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid | 326 mg, Yield: 77% | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCSC=2N=NNC2)C(=O)O)C1=O)=N/OC(=C)C(=O)O | C18H16N8O7S4
